Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
oxaliplatin
 
Attending: ___.
 
Chief Complaint:
abd pain, nausea 
 
Major Surgical or Invasive Procedure:
___: Exchange of a jejunostomy tube for a new 16 ___ MIC 
jejunostomy tube 
___: Cholangiogram; R anchor drain removed with 
embolization of tract
___: 10 mm CBD stent placed; right ___ Fr anchor drain; 12 
Fr ___ J-tube placement
___: Right ___ Fr int/ext PTBD placed 

 
History of Present Illness:
Mr ___ is a ___ with hx of gastric adenocarcinoma (s/p
total gastrectomy/Roux-en-Y in ___ at ___ w/liver mets, on
palliative nivolumab) p/w abd pain/nausea to ___, found to
have transaminitis ___ mets obstruction, transferred to ___ 
for
further management

Per ___ Summary, "The patient had been on MS ___ 30 
mg
twice a day and oxycodone at home which was not controlling the
pain as well as due to the ongoing nausea and vomiting, he came
into the ER. On workup here he was noted to have transaminitis
with his AST and ALT in the 500-600 range, Alk phosphatase
increased to 930 ___s bilirubin being elevated to 3.4. His
most recent LFTs few weeks ago were fairly normal. It was 
unclear
if this was related to his new immunotherapy ordered this could
be related to obstructive jaundice from the malignancy. He was
seen by gastroenterology, they recommended MRCP which was
performed and this showed multiple intrahepatic metastasis as
well as a extrahepatic mass at the porta hepatis causing
compression and obstruction of the distal CBD. GI recommended 
him
to be transferred to ___ for further management given he had
the surgery done there few months ago."

Initially, plan for ERCP w/stent placement, however, upon GI
review of imaging, thought diff anatomy, so plan for ___ guided
stenting. Pt was kept NPO over most of admission, pain control
w/MS-contin and IV dilaudid. Heme-Onc, GI, and Palliative care
teams were consulted. Of note, pt reports that he was started on
Nivolumab ~1wk prior. Pt was seen by Dr ___ as second
opinion, follows oncology at ___.

Upon arrival to the floor, the patient states that he was
admitted to ___ for worsening nausea since last
week. Nausea is associated with NBNB vomiting. 

Pt has had diffuse, constant, dull abdominal pain for
approximately one month which is being treated with oxycodone 
and
well controlled.

No fevers/chills. Intermittent constipation but no diarrhea. No
blood in urine or stool. No SOB/CP/cough. Intermittent mild
frontal HA. c/o new dysuria today.
 
Past Medical History:
1.  H. pylori gastritis.
2.  History of GERD.
3.  Iron deficiency anemia.
4.  History of hemorrhoids.
5.  Deep venous thrombosis and pulmonary embolism after shoulder
surgery, treated with six months of Coumadin three to ___ years
ago.
 
Social History:
___
Family History:
No family history of colon, gastric, esophageal cancer, or IBD
 
Physical Exam:
ADMISSION PHYSICAL EXAM
VITALS: 98.1 113/74 87 18 95 RA   
GENERAL: Alert and interactive. comfortable
HEENT: Normocephalic, atraumatic. Pupils equal, round, and
reactive bilaterally, extraocular muscles intact. Sclera icteric
and without injection. Oral thrush, MMM 
NECK: Thyroid is normal in size and texture, no nodules. No
cervical lymphadenopathy. No JVD.  
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops. 
LUNGS: Clear to auscultation bilaterally w/appropriate breath
sounds appreciated in all fields. No wheezes, rhonchi or rales.
No increased work of breathing.
BACK: No spinous process tenderness. No CVA tenderness.  
ABDOMEN: +BS, RUQ and LUQ TTP, no guarding or rebound
EXTREMITIES: No clubbing, cyanosis, or edema. Pulses DP/Radial 
2+
bilaterally.  
SKIN: Warm. No rash.
NEUROLOGIC: CN2-12 intact. ___ strength throughout. Normal
sensation. Gait is normal.  AOx3.

DISCHARGE PHYSICAL EXAM
24 HR Data (last updated ___ @ 931)
    Temp: 98.0 (Tm 98.6), BP: 114/79 (102-120/68-82), HR: 94
(91-97), RR: 10 (___), O2 sat: 94% (94-99), O2 delivery: Ra  
GENERAL: Cachectic and chronically ill appearing, appeared
uncomfortable and sad this morning 
HEENT: Icteric sclera, dry mucosa
CARDIAC: Regular rhythm, normal rate.
LUNGS: Scattered rhonchi posteriorly, breathing comfortably on
room air
ABDOMEN: soft, mildly distended
EXTREMITIES: No clubbing, cyanosis, or edema. BLE warm.
NEUROLOGIC: moving all extremities spontaneously 
 
Pertinent Results:
ADMISSION LABS
___ 06:10AM BLOOD WBC-8.1 RBC-3.82* Hgb-11.1* Hct-31.5* 
MCV-83# MCH-29.1 MCHC-35.2 RDW-15.0 RDWSD-43.8 Plt ___
___ 06:10AM BLOOD ___ PTT-26.4 ___
___ 06:10AM BLOOD Glucose-100 UreaN-15 Creat-0.6 Na-140 
K-4.3 Cl-97 HCO3-26 AnGap-17
___ 06:10AM BLOOD ALT-194* AST-153* LD(LDH)-382* 
AlkPhos-719* TotBili-12.1*
___ 06:10AM BLOOD Albumin-2.8* Calcium-8.4 Phos-2.9 Mg-1.9

INTERMITTENT LABS
___ 06:19AM BLOOD WBC-18.9* RBC-3.29* Hgb-9.4* Hct-27.6* 
MCV-84 MCH-28.6 MCHC-34.1 RDW-22.9* RDWSD-67.3* Plt ___
___ 06:19AM BLOOD Glucose-132* UreaN-18 Creat-0.5 Na-130* 
K-5.5* Cl-88* HCO3-26 AnGap-16
___ 06:19AM BLOOD ALT-123* AST-228* LD(LDH)-657* 
AlkPhos-653* TotBili-6.1* DirBili-4.2* IndBili-1.9

DISCHARGE LABS
___ 06:19AM BLOOD WBC-18.9* RBC-3.29* Hgb-9.4* Hct-27.6* 
MCV-84 MCH-28.6 MCHC-34.1 RDW-22.9* RDWSD-67.3* Plt ___
___ 06:19AM BLOOD Glucose-132* UreaN-18 Creat-0.5 Na-130* 
K-5.5* Cl-88* HCO3-26 AnGap-16
___ 06:19AM BLOOD ALT-123* AST-228* LD(LDH)-657* 
AlkPhos-653* TotBili-6.1* DirBili-4.2* IndBili-1.9

IMAGING AND STUDIES
___ PTBD:
FINDINGS: 
1.  Moderate right intrahepatic biliary dilatation and common 
bile duct
dilatation secondary to low CBD obstruction.  Cone beam CT 
confirms moderate right anterior intrahepatic biliary duct 
dilatation with paucity of biliary ducts in the right posterior 
and left biliary system secondary to hepatic metastases.  
Catheterization of the segment 2 biliary ducts demonstrates mild 
dilatation peripherally with long segment stricturing secondary 
to central hepatic metastasis.  Based on the findings the 
decision was made not to obtain left biliary duct access.
IMPRESSION: 
Successful placement of the right anterior ___ internal-external 
biliary
drain.

___ BILIARY STENT:
FINDINGS:
1. Right 10 ___ percutaneous transhepatic internal external 
biliary
drainage catheters.
2. Cholangiogram showing distal CBD obstruction.  Post stent 
deployment and
cholangioplasty demonstrates brisk antegrade flow of contrast 
into the
duodenum through the common bile duct stent.
3. Successful exchange of right 10 ___ percutaneous 
transhepatic biliary
internal external drainage catheters with new 10 ___ anchor 
drain.

___ CT AP:
IMPRESSION:
1. Infiltrative soft tissue mass encasing the remnant stomach 
extending along the gastrohepatic ligament to the hepatic hilum 
and involving the celiac axis, portal vein, SMV, splenic vein 
and pancreas as detailed above consistent with invasive local 
disease recurrence.
2. Significant interval progression of hepatic metastases as 
described.  In
particular, there is diffuse metastatic infiltration in the left 
lobe with
occlusion of the lateral branch of the left portal vein and 
distal branches of the left hepatic vein.
3. New 1.3 cm hyperattenuating focus within the right hepatic 
lobe along the periphery of the large hepatic lesion suspicious 
for a focal bleed versus pseudoaneurysm.  Further evaluation 
with a multiphasic CT scan of the abdomen is recommended.
4. 2.5 cm nodule in the region of the left adrenal gland is 
suspicious for
left adrenal metastasis.
5. Multiple peritoneal and omental nodules as described are 
consistent with
peritoneal carcinomatosis.
6. Enlarged retroperitoneal and mesenteric lymph nodes 
consistent with
metastatic lymphadenopathy.
7. Splenic infarct from tumor involvement of the splenic artery.
8. New nodular and ill-defined opacities in the visualized lower 
lung fields concerning for metastatic involvement although 
superimposed infectious etiologies could also be considered.

___ CHOLANGIOGRAM:
1. Right 10 ___ external percutaneous transhepatic biliary 
drainage
catheter.
2. Cholangiogram showing patent common bile duct stent with 
brisk antegrade
flow.  No biliary ductal dilatation.
3. Successful removal of right 10 ___ external percutaneous 
transhepatic
biliary drainage catheter with embolization of tract.
 
 
 
Brief Hospital Course:
Mr. ___ is a ___ year old man with metastatic HER-2 
negative gastric adenocarcinoma s/p neoadjuvant ECF and then EOX 
___ followed by gastrectomy/Roux-en-Y in ___ recently initiated on nivolumab early ___, 
who presented with nausea, acute on chronic abdominal pain, and 
LFTs markedly above baseline secondary to metastatic CBD 
obstruction and worsening of disease burden. After discussions 
with the patient, his wife and his niece, patient is CMO and 
DNR/DNI.

#Acute on chronic abdominal pain
#Nausea
#Hiccups
Patient has chronic abdominal pain and nausea from his 
underlying metastatic malignancy. His pain and nausea were not 
well controlled at home, and worsened with spread of his 
disease. Initially there was hope that biliary 
decompression/drainage would help his symptoms, but this was not 
the case. Palliative care was consulted for symptom management. 
He was on Zofran, metoclopramide, Ativan, morphine pca, 
oxycodone and methadone. He was discharged to a hospice center 
to focus on pain and symptom management.

#Goals of care
On ___ patient expressed that he wants to focus on being 
comfortable, and not undergo aggressive care because it will not 
make the cancer better and not help his pain. He asks to be 
comfortable, and he and family explicitly do not want lab draws, 
imaging or anything that is not going to improve comfort. 
Palliative care was consulted during his hospitalization for 
symptom management. He was discharged to hospice.

#Obstructive jaundice:
#Metastatic gastric cancer:
Patient is followed by Dr. ___. He presented as a 
transfer from ___ with elevated LFTs/AP/T bili along with 
imaging consistent with common bile duct obstruction from 
metastatic disease. Imaging also showed worsening 
intra-abdominal metastases. Patient underwent cholangiogram with 
PTBD placement on ___, with repeat cholangiogram on ___ with 
CBD stent placed. Then on ___ right anchor drain was removed 
and tract was emblazed. Labs initially improved with PTBD done 
___, then uptrended and then remained stable. Palliative care 
was consulted for symptom control as above. Dr. ___ was 
updated during his hospital stay. 

#Leukocytosis
Uptrended his last week of hospitalization, without increase in 
LFTs, other focal symptoms or fevers. Differential included 
infection vs worsening metastatic disease. No intervention was 
done as patient was transitioned to CMO.

#Severe malnutrition
Patient underwent J-tube placement for tubefeeds, but also so 
pain medications could be given with less nausea. Tube feeds 
were stopped when transitioned to CMO, out of concern that they 
may precipitate pain or nausea.

TRANSITIONAL ISSUES:
#Patient comfort measures only at discharge
#Discharged to ___
#Code: DNR/DNI, CMO
#Contact: Wife, ___: ___ Niece, ___: ___ 

 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. OxycoDONE Liquid ___ mg PO Q4H:PRN pain 
2. Morphine SR (MS ___ 30 mg PO Q8H 
3. Pantoprazole 40 mg PO Q12H 
4. Polyethylene Glycol 17 g PO DAILY 
5. Nivolumab 240 mg IV EVERY TWO WEEKS 
6. LORazepam 0.5 mg PO Q6H:PRN anxiety 
7. Prochlorperazine 10 mg PO Q6H:PRN nausea 
8. Docusate Sodium 100 mg PO BID:PRN constipation 
9. Nystatin Oral Suspension 5 mL PO QID 
10. Senna 8.6 mg PO BID:PRN constipation 

 
Discharge Medications:
1.  ChlorproMAZINE 12.5 mg IV QHS PRN hiccups 
RX *chlorpromazine 25 mg/mL 12.5 mg IV PRN Disp #*10 Ampule 
Refills:*0 
2.  HYDROmorphone (Dilaudid) 0.2-1 mg IVPCA Lockout Interval: 10 
minutes  Basal Rate: 0.2-1 mg(s)/hour 1-hr Max Limit: 0 mg(s) 
Start: Today - ___ @ 1500 
RX *hydromorphone in 0.9 % NaCl 0.2 mg/mL 0.2-1 mg IV q10minutes 
Disp #*12 Bag Refills:*0 
3.  LORazepam 0.5 mg IV Q4H:PRN anxiety, agitation 
RX *lorazepam 2 mg/mL 1 mg iv prn agitation Disp #*10 Vial 
Refills:*0 
4.  Methadone 5 mg IV Q8H 
RX *methadone 5 mg/0.5 mL 5 mg IV three times a day Disp #*10 
Syringe Refills:*0 
5.  Ondansetron 4 mg IV Q4H PRN nausea/vomiting  
6.  Ramelteon 8 mg PO QHS 
Should be given 30 minutes before bedtime  
7.  Scopolamine Patch 1 PTCH TD ONCE Duration: 72 Hours  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Metastatic gastric cancer
Malignant biliary obstruction
Pain and nausea secondary to gastric cancer

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure caring for you during your hospitalization at 
the ___.

WHY WAS I ADMITTED TO THE HOSPITAL?
===========================================
- You were having worsening pain and also elevation in your 
liver tests.

WHAT WAS DONE FOR ME IN THE HOSPITAL?
===========================================
- You had a CT scan that unfortunately showed worsening spread 
of the cancer.
- You were seen by the interventional radiology doctors, who 
placed a stent (like a drainage pipe) to help drain some of the 
blockage in the liver caused by the cancer.
- You were seen by the palliative care team, who helped to find 
medications to help with your pain and nausea.
- You were discharge to a hospice center, which is a place that 
will focus on making sure your pain and nausea are well 
controlled.

We wish you the best.

Warmly,
Your ___ Care Team
 
Followup Instructions:
___